US09376422B2
Step 1: Synthesis of methyl 5-bromo-3-(isopropylamino)-2-methylbenzoate
To a stirred solution of methyl 3-amino-5-bromo-2-methylbenzoate (1 equiv.) in methanol (5 mL), acetone (5 equiv.) and acetic acid (2 equiv.) were added and reaction mixture stirred at room temperature for 2 h. Then NaBH3CN (3 equiv.) was added at 0° C. The resulting reaction mixture was stirred further for 16 h at room temperature. On completion, solvent was evaporated and water added to the residue and the extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated to afford crude product which was used in next step without further purification (yield 80-90%).

reactant | methyl 3-amino-5-bromo-2-methylbenzoate | 1 equiv. | NC=1C(=C(C(=O)OC)C=C(C1)Br)C | C9H10BrNO2
reactant | acetone | 5 equiv. | CC(=O)C | C3H6O
reactant | acetic acid | 2 equiv. | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 3 equiv. | [BH3-]C#N.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | methyl 5-bromo-3-(isopropylamino)-2-methylbenzoate | yield 80-90% | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC(C)C | C12H16BrNO2
